US04474802
To a solution of 3.2 g of dimethyl methanephosphonate in 52 ml of tetrahydrofuran was added at -78° C. 155 ml of n-butyl lithium (1.59N) and the mixture was stirred for 25 mins at -78° C. To the mixture was added at -78° C. a solution of 1.6 g of the above-mentioned ester in 3.2 ml of tetrahydrofuran. The mixture was stirred for 15 mins and for one hour at room temperature. After addition of 100 ml of ether to the reaction mixture, the mixture was washed with 30 ml of aqueous saturated solution of oxalic acid, 50 ml of water and 40 ml of aqueous saturated solution of sodium chloride. The washed mixture was dried and concentrated to give an oily material. The oily material was distilled under reduced pressure to yield 2.2 g of dimethyl 2-oxo-hept-5-yne-phosphonate (143° to 146° C./0.7 mmHg).

reactant | dimethyl methanephosphonate | 3.2 g | CP(OC)(=O)OC | C3H9O3P
reactant | n-butyl lithium | 1.59N, 155 ml | C(CCC)[Li]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 52 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
product | dimethyl 2-oxo-hept-5-yne-phosphonate | 2.2 g | O=C(CP(OC)(=O)OC)CCC#CC | C9H15O4P
